US07659305B2
(2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
Sodium ethoxide (112 mg, 1.65 mmol) was added slowly to a stirred solution of 4-bromothiophenol (302 mg, 1.65 mmol) in EtOH (6 ml) at room temperature under a nitrogen atmosphere. A solution of (2S,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (CAS Reg. No. 88043-21-4) (300 mg, 0.75 mmol) in 1 ml EtOH was added after 30 minutes and the solution was stirred for 48 h. The reaction mixture was poured into 0.5M NaOH (50 ml) and extracted with CH2Cl2 (2×50 ml). The combined organics were dried (magnesium sulphate) and concentrated under vacuum. Flash column chromatography yielded the product as a pink solid (120 mg, 40%).

reactant | Sodium ethoxide | 1.65 mmol, 112 mg | [O-]CC.[Na+]
reactant | 4-bromothiophenol | 1.65 mmol, 302 mg | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | (2S,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C18H25NO7S
reactant | NaOH | 0.5M, 50 ml | [OH-].[Na+]
solvent | EtOH | 6 ml | CCO | C2H6O
solvent | EtOH | 1 ml | CCO | C2H6O
product | (2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 120 mg, 40% | CCOC(=O)[C@H]1N(C[C@H](C1)SC1=CC=C(C=C1)Br)C(=O)OC(C)(C)C | C18H24BrNO4S
